US08466282B2
N-[(3S,5R)-5-(1-hydroxy-2-methoxyethyl)piperidin-3-yl]-1-(4-methoxybutyl)-N-(2-methylpropyl)-1H-benzimidazole-2-carboxamide dihydrochloride
tert-Butyl (5S)-3-(1-hydroxy-2-methoxyethyl)-5-[{[1-(4-methoxybutyl)-1H-benzimidazol-2-yl]carbonyl}(2-methylpropyl)amino]piperidine-1-carboxylate (150 mg) was dissolved in 10-20%-hydrogen chloride methanol solution (10 ml), and the mixture was stirred at room temperature for 3 hr. The solvent was evaporated under reduced pressure to give the to object product (140 mg).

reactant | tert-Butyl (5S)-3-(1-hydroxy-2-methoxyethyl)-5-[{[1-(4-methoxybutyl)-1H-benzimidazol-2-yl]carbonyl}(2-methylpropyl)amino]piperidine-1-carboxylate | 150 mg | OC(COC)C1CN(C[C@H](C1)N(CC(C)C)C(=O)C1=NC2=C(N1CCCCOC)C=CC=C2)C(=O)OC(C)(C)C | C30H48N4O6
reactant | hydrogen chloride methanol | 10 ml | CO.Cl
product | N-[(3S,5R)-5-(1-hydroxy-2-methoxyethyl)piperidin-3-yl]-1-(4-methoxybutyl)-N-(2-methylpropyl)-1H-benzimidazole-2-carboxamide dihydrochloride | Cl.Cl.OC(COC)[C@@H]1C[C@@H](CNC1)N(C(=O)C1=NC2=C(N1CCCCOC)C=CC=C2)CC(C)C | InChI=1S/C25H40N4O4.2ClH/c1-18(2)16-29(20-13-19(14-26-15-20)23(30)17-33-4)25(31)24-27-21-9-5-6-10-22(21)28(24)11-7-8-12-32-3;;/h5-6,9-10,18-20,23,26,30H,7-8,11-17H2,1-4H3;2*1H/t19-,20+,23?;;/m1../s1
